US04472381
Dibenzylphosphoryl-L-methionyl-L-prolyl-L-proline methylester L-methionyl-L-prolyl-L-proline methylester hydrochloride (2.0 g, 5.1 m mole) was dissolved in methylene chloride (20 ml), and triethyl amine (1.54 g, 15.2 m mole) was added thereto. The solution was cooled at -30° C., and to the cooled solution, a carbon tetrachloride solution (10 ml) of dibenzylphosphorylchloride produced from dibenzylhydrogen phosphite (1.41 g, 5.1 m mole) was added dropwise, and the mixture was further stirred overnight at room temperature. To the reaction solution, methylene chloride (100 ml) was added, and the mixture was washed with 1N hydrochloric acid, water, 5% sodium bicarbonate and water in this order. The mixture was dried with anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain a candy-like residue (3.23 g). The residue was purified by column chromatography (silica gel, developing solvent; ethyl acetate:methanol=20:1) to obtain dibenzylphosphoryl-L-methionyl-L-prolyl-L-proline methylester (1.87 g, yield: 59.6%). A single spot with Rf =0.1 was obtained by thin layer chromatography (developing solvent, ethyl acetate:methanol32 20:1, Colour forming method, spraying of 25% hydrobromic acid and 0.1 ninhydrin, and heating).

reactant | Dibenzylphosphoryl-L-methionyl-L-prolyl-L-proline methylester L-methionyl-L-prolyl-L-proline methylester hydrochloride | 2.0 g | Cl.COC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](N)CCSC)=O)=O)=O.COC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NP(=O)(CC1=CC=CC=C1)CC1=CC=CC=C1)CCSC)=O)=O)=O
reactant | triethyl amine | 1.54 g | C(C)N(CC)CC | C6H15N
reactant | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | dibenzylphosphorylchloride | C(C1=CC=CC=C1)P(=O)(CC1=CC=CC=C1)Cl | C14H14ClOP
